US04032527
A mixture of 2-(4-(diethylamino)benzoyl)-3,4,5,6-tetrachlorobenzoic acid (8.70 g.), N,N,N',N'-tetraethyl-m-phenylenediamine (4.85 g.) and acetic anhydride (5 ml.) was heated (to 90° C.). Addition of methanol (10 ml.) and slurrying the resulting product with methanol (20 ml.) afforded 3-(2,4-bis(diethylamino)phenyl)-3-(4-(diethylamino)-phenyl)-4,5,6,7-tetrachlorophthalide (I: X= Y4 = (CH3CH2)2N, Y2 = H, Z4 = Z5 = Z6 = Z7 = Cl) (7.85 g., m.p. 196°-197° C.).

reactant | 2-(4-(diethylamino)benzoyl)-3,4,5,6-tetrachlorobenzoic acid | 8.70 g | C(C)N(C1=CC=C(C(=O)C2=C(C(=O)O)C(=C(C(=C2Cl)Cl)Cl)Cl)C=C1)CC | C18H15Cl4NO3
reactant | N,N,N',N'-tetraethyl-m-phenylenediamine | 4.85 g | C(C)N(C1=CC(=CC=C1)N(CC)CC)CC | C14H24N2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 3-(2,4-bis(diethylamino)phenyl)-3-(4-(diethylamino)-phenyl)-4,5,6,7-tetrachlorophthalide | 7.85 g | C(C)N(C1=C(C=CC(=C1)N(CC)CC)C1(OC(=O)C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)C1=CC=C(C=C1)N(CC)CC)CC | C32H37Cl4N3O2
